US04110445
IV. 1-Phenyl-4-amino-2-oxo-3-imidazoline
To a mixture of 3.75 g. of anilinoacetamide, 2.5 g. of potassium bicarbonate and 40 ml. of ethanol was added dropwise 2.7 g. of cyanogen bromide in 20 ml. of ethanol. This mixture was heated to reflux overnight. On cooling, a light tan precipitate formed in the flask. The precipitate was filtered, washed with ethanol, water, and dried overnight. The yield of product, m.p. 277°-9° C. was 3.3 g. (75%). The mass spectrum of the compound gave a parent ion at m/e 175. An analytical sample was prepared by recrystallization from ethanol-methanol, m.p. 280°-2° C. In this case the ethanol filtrate was basic at the conclusion of the reaction leading to formation of the imidazoline in situ. This product is used in Examples 10 and 11.

reactant | anilinoacetamide | N(C1=CC=CC=C1)CC(=O)N | C8H10N2O
reactant | potassium bicarbonate | C([O-])(O)=O.[K+]
reactant | cyanogen bromide | N#CBr | CBrN
reactant | imidazoline | N1C=NCC1 | C3H6N2
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol methanol | C(C)O.CO
product | 1-Phenyl-4-amino-2-oxo-3-imidazoline | C1(=CC=CC=C1)N1C(N=C(C1)N)=O | C9H9N3O
